US05216015
Step 2: Preparation of 3α,12α-dihydroxy-5β-chol-8(14)-en-24-ol
A mixture of lithium aluminum hydride (6.7 g) in tetrahydrofuran (50 ml) is cooled to 0° C. and a solution of 3α, 12α-dihydroxy-5β-chol-8(14)-en-24-oic acid (15.3 g) in tetrahydrofuran (350 ml) is added to dropwise. The mixture is warmed to room temperature, stirred for about 17 hours, and quenched by dropwise addition of water (6.7 ml), 15% sodium hydroxide solution (6.7 ml), and water (6.7 ml). The mixture is filtered, washing the alumina salts with 20% ethanol in ethyl acetate, and the filtrate concentrated in vacuo to give the desired product which is used, without further treatment, for the next step.

reactant | lithium aluminum hydride | 6.7 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3α, 12α-dihydroxy-5β-chol-8(14)-en-24-oic acid | 15.3 g | O[C@H]1C[C@H]2CCC3=C4CC[C@H]([C@@H](CCC(=O)O)C)[C@]4([C@H](C[C@@H]3[C@]2(CC1)C)O)C | C24H38O4
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
product | 3α,12α-dihydroxy-5β-chol-8(14)-en-24-ol | O[C@H]1C[C@H]2CCC3=C4CC[C@H]([C@@H](CCCO)C)[C@]4([C@H](C[C@@H]3[C@]2(CC1)C)O)C | C24H40O3
